* Diode-resistor DC operating point. Newton-Raphson solves the nonlinear
* Shockley equation I(V) = Is*(exp(V/(N*Vt)) - 1) simultaneously with the
* rest of the circuit; V(a) settles at the diode's forward voltage drop
* rather than the plain resistive-divider answer a linear solver would give.
V1 in 0 DC 5
R1 in a 1k
D1 a 0
